US04812585
In 50 ml of toluene were dissolved 4.31 g (0.05 mole) of crotonic acid, 4.43 g (0.065 mole) of furan and 10.26 g (0.06 mole) of monochloroacetic anhydride. To the resulting solution was added 0.71 g of boron trifluoridediethyl ether complex and the resulting mixture was then stirred at 50° C. for 6.5 hours. After completion of the reaction, the reaction solution was cooled and washed successively with water, 5% aqueous sodium carbonate solution and water. The organic layer was concentrated under reduced pressure and the resulting concentrated residue was then purified by silica gel-filled column chromatography to obtain 2.8 g of 2-crotonylfuran.

reactant | crotonic acid | 0.05 mole, 4.31 g | C(\C=C\C)(=O)O | C4H6O2
reactant | furan | 0.065 mole, 4.43 g | O1C=CC=C1 | C4H4O
reactant | monochloroacetic anhydride | 0.06 mole, 10.26 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-crotonylfuran | 2.8 g, Yield: 41.1% | C(\C=C\C)(=O)C=1OC=CC1 | C8H8O2
